US04391821
A mixture of 6.64 g 1-chloro-4-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-2-butanol and 3.7 cm3 cyclohexylamine was kept at 95° C. for 3 hours. The mixture was dissolved in 10 cm3 of methanol, 6 cm3 of methanol saturated with hydrochloric acid was added thereto, then the solution was evaporated. The residue was dissolved in 40 cm3 of benzene, the benzene solution was extracted with water and evaporated; 6.2 g crude 4-cyclohexylamino-1-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-2-butanol-hydrochloride was obtained. The weight of the product crystallized from acetone is 5.0 g; melting point is 157°-159° C. The base liberated from its hydrochloric salt melts at 114°-116° C. The base can be transformed with methyl iodide into 1-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-4-(dimethyl-cyclohexylammonium)-2-butanol-iodide (m.p. is 208°).

reactant | 1-chloro-4-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-2-butanol | 6.64 g | ClCC(CCOC1=CC2=C(CC(CO2)C2=CC=CC=C2)C=C1)O | C19H21ClO3
reactant | cyclohexylamine | 3.7 cm3 | C1(CCCCC1)N | C6H13N
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 10 cm3 | CO | CH4O
reactant | methanol | 6 cm3 | CO | CH4O
product | 4-cyclohexylamino-1-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-2-butanol-hydrochloride | 6.2 g | Cl.C1(CCCCC1)NCCC(COC1=CC2=C(CC(CO2)C2=CC=CC=C2)C=C1)O | InChI=1S/C25H33NO3.ClH/c27-23(13-14-26-22-9-5-2-6-10-22)18-28-24-12-11-20-15-21(17-29-25(20)16-24)19-7-3-1-4-8-19;/h1,3-4,7-8,11-12,16,21-23,26-27H,2,5-6,9-10,13-15,17-18H2;1H
